US05721347
E) 2-allyl-5-methoxy-3-indolyl acetic acid
0.08 mole of 2-allyl-5-methoxy-3-indolyl acetonitrile is added to a mixture of 140 ml. of alcohol, 100 ml. of water and 4.3 g. of KOH. The mixture is refluxed 15 hours and then brought to room temperature. Glacial acetic acid (60 ml.) is added, and the solution is filtered through a talc filter. The filtrate is diluted with 500 ml. of water, and the precipitated 2-allyl-5-methoxy-3-indolyl acetic acid is separated by filtration and dried.

reactant | 2-allyl-5-methoxy-3-indolyl acetonitrile | 0.08 mole | C(C=C)C=1NC2=CC=C(C=C2C1CC#N)OC | C14H14N2O
reactant | water | O | H2O
reactant | KOH | [OH-].[K+]
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 2-allyl-5-methoxy-3-indolyl acetic acid | C(C=C)C=1NC2=CC=C(C=C2C1CC(=O)O)OC | C14H15NO3
